US04037036
Into a four-neck flask equipped with a stirrer, a nitrogen gas inlet tube, a reflux condenser with a calcium chloride tube and a dropping funnel were charged 4.9 g of magnesium cut powder and 50 ml of tetrahydrofuran. 36.6 Grams of p-bromostyrene diluted with tetrahydrofuran to about 4 times the weight was added dropwise under gentle reflux in a dry nitrogen gas stream. After the magnesium had disappeared, a solution consisting of 37.0 g of acridone and 600 ml of tetrahydrofuran was added dropwise over a period of two hours with stirring. After refluxing for further 5 hours, the reaction mixture was allowed to cool and then poured onto hydrochloric acid-ice to effect hydrolysis. The organic layer was extracted with ether and the extract was dried over anhydrous sodium sulfate. The solvent was then distilled off to obtain a yellow semi-solid. Almost the same weight (60 g) of phosphorus pentoxide was added to 500 ml of a solution of the semi-solid in benzene. The mixture was stirred at room temperature for 5 hours and then allowed to stand overnight. The supernatant liquid separated by decantation was washed with water, dried, and then concentrated to dryness. The residue was purified by silica gel chromatography to obtain 22.5 g of 9-(p-vinylphenyl)acridine. Yield 42.1%.

reactant | magnesium | 4.9 g | [Mg] | Mg
reactant | p-bromostyrene | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | acridone | 37.0 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | phosphorus pentoxide | 60 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 9-(p-vinylphenyl)acridine | 22.5 g, Yield 42.1% | C(=C)C1=CC=C(C=C1)C=1C2=CC=CC=C2N=C2C=CC=CC12 | C21H15N
